US04279902
A. Tetrahydro-5-[(phenylmethoxy)methyl]-2-furanmethanol
100 ml of benzyl alcohol (0.97 mol) is cooled to 5° in an ice-bath and under a nitrogen atmosphere. 0.32 g of sodium (0.0139 mole; washed with hexane to remove the mineral oil) is slowly added to the rapidly stirred benzyl alcohol. The addition of the sodium is made at such a rate that the temperature remains below 20°. After the addition of the sodium has been completed the mixture is allowed to stir for 1/2 hour and slowly warmed to room temperature. Slowly, and with stirring 20 g of 1,5-hexadiene diepoxide (0.175 mole) is added to the mixture. After the addition of the diepoxide has been completed, the reaction mixture is heated at 150° for 16 hours. The mixture is then cooled to room temperature and with stirring is poured into 350 ml of water. The aqueous mixture is extracted with 2×250 ml portions of chloroform, the CHCl3 extracts are combined and dried over anhydrous sodium sulfate. The CHCl3 is removed in vacuo and the colorless oil vacuum distilled through a 10 cm vigreux distilling column. The fraction distilling at 151°-155° @0.5 mm is collected yielding 18.52 g (48%) of the above compound.

reactant | benzyl alcohol | 0.97 mol, 100 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium | 0.32 g | [Na] | Na
reactant | 1,5-hexadiene diepoxide | 0.175 mole, 20 g | C1C(O1)CCC2CO2 | C6H10O2
solvent | water | 350 ml | O | H2O
product | Tetrahydro-5-[(phenylmethoxy)methyl]-2-furanmethanol | 18.52 g, 48% | C1(=CC=CC=C1)COCC1CCC(O1)CO | C13H18O3
